US04873255
Ethyl 2-chloro-3-[4-(2-methylchroman-2-ylmethoxy)-phenyl]propionate
0.7 ml of concentrated aqueous hydrochloric acid was dropped, whilst ice-cooling, into a solution of 500 mg of 2-(4-aminophenoxymethyl)-2-methylchroman (prepared as described in Preparation 4) in 5 ml of acetone, and then a solution of 170 mg of sodium nitrite in 2 ml of water was added dropwise to the resulting mixture. When the dropwise additon was complete, 2 ml of ethyl acrylate were added, and the reaction mixture was heated to 40° C. 10 mg of cuprous oxide were then added gradually, and the mixture was stirred for 30 minutes. At the end of this time, the acetone was distilled off under reduced pressure, and the residue was extracted with benzene. The benzene extract was dried over anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure. The residue was subjected of silica gel column chromatography eluted with a 10:1 dy volume mixture of hexane and ethyl acetate, to afford 350 mg of the title compound as a pale yellow oily substance.

reactant | hydrochloric acid | 0.7 ml | Cl | ClH
reactant | 2-(4-aminophenoxymethyl)-2-methylchroman | 500 mg | NC1=CC=C(OCC2(OC3=CC=CC=C3CC2)C)C=C1 | C17H19NO2
reactant | sodium nitrite | 170 mg | N(=O)[O-].[Na+]
reactant | ethyl acrylate | 2 ml | C(C=C)(=O)OCC | C5H8O2
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | water | 2 ml | O | H2O
product | Ethyl 2-chloro-3-[4-(2-methylchroman-2-ylmethoxy)-phenyl]propionate | 350 mg | ClC(C(=O)OCC)CC1=CC=C(C=C1)OCC1(OC2=CC=CC=C2CC1)C | C22H25ClO4
